US08981104B2
rac-5-{[2-(2-Hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylic acid
14.6 g (47.5 mmol) of 5-{[2-(2-methoxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carbonitrile were taken up in 100 ml of hydrobromic acid (48% in water) and stirred at boiling point for 5 hours. The reaction solution was then cooled to room temperature, diluted with water and adjusted to pH 6 with saturated sodium bicarbonate solution. The crystals formed were filtered off with suction, washed with water and air-dried. This gave 14.6 g (46.76 mmol, 98% of theory) of the target compound.

reactant | 5-{[2-(2-methoxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carbonitrile | 47.5 mmol, 14.6 g | COC1=C(C=CC=C1)CCNC1C=2C=CC(=NC2CCC1)C#N | C19H21N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrobromic acid | 100 ml | Br | BrH
solvent | water | O | H2O
product | rac-5-{[2-(2-Hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylic acid | OC1=C(C=CC=C1)CCNC1C=2C=CC(=NC2CCC1)C(=O)O | C18H20N2O3
